USRE039128E1
Step 1. (±) 1-Azabicyclo[4,3,0]nonan-4-ol
1-Azabicyclo[4,3,0]nonan-4-one (1.0 g, 0.0072 moles) (King, F. D., J. Chem. Soc. Perkin. Trans. 1, (1986) 447) in tetrahydrofuran (50 ml) was treated with lithium aluminium hydride (0.7 g. 0.0185 moles) at ambient temperature for 18 hours. Work up in the usual way gave the title compound 1.0 g (100%). M.S. (+ve ion electrospray) m/z 142 (MH30 , 95%).

reactant | 1-Azabicyclo[4,3,0]nonan-4-one | 0.0072 moles, 1.0 g | N12CCC(CC2CCC1)=O | C8H13NO
reactant | lithium aluminium hydride | 0.0185 moles, 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (±) 1-Azabicyclo[4,3,0]nonan-4-ol | 1.0 g, 100% | N12CCC(CC2CCC1)O | C8H15NO
